* C:\Users\Agus\Documents\GitHub\E2-TPs\TP2\Simulacion\AmplificadorXD posta.asc
C2 N023 Vin 2.2µ
R1 N023 0 120k
Q1 N030 N023 N019 0 2N2907
Q2 N037 N024 N020 0 2N2907
Q3 N030 N037 N043 0 2N2222
Q4 N037 N037 N044 0 2N2222
R2 N043 V- 68
R3 N044 V- 68
R4 N013 N019 100
R5 N013 N020 100
Q5 N013 N005 N004 0 2N2907
R6 V+ N004 150
C4 V+ 0 220µ
R7 Iref N005 1k
R8 N024 N029 3.9k
C5 N029 0 220µ
D1 0 N029 D
R10 Vout N024 120k
C8 N028 N030 100p
Q6 0 N030 N039 0 2N2222
R13 V- N039 1k
R14 V- N042 47
Q8 N028 N039 N042 0 2N2222
C9 V+ N011 47µ
R15 Iref N011 10k
R16 N011 0 10k
Q9 Iref N001 V+ 0 2N2907
R17 N002 N001 1k
R18 N006 Iref 1k
R19 N002 V+ 100
Q10 N007 N006 N002 0 2N2907
R20 N007 N012 15
R22 N021 N007 820
C10 N007 N028 47µ
Q11 N012 N021 N028 0 2N2222
R23 N021 N025 100
XU1 N025 N028 N028 pot R=1K cur=.45
R27 Vout N027 0.1
R28 N018 Vout 0.1
R31 N022 N015 10
C11 N022 0 0.1µ
Q14 N036 N028 N026 0 2N2907
R33 N036 V- 180
R34 N016 N015 10
L1 N015 N016 1µ
R36 V+ N008 180
Q16 N008 N012 N017 0 2N2222
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0) AC .5
RL Vout 0 10
R38 Vout N034 10k
R39 N034 0 1k
Q18 N035 N034 N031 0 2N2907
Q19 N038 0 N032 0 2N2907
R40 N014 N031 1k1
R42 N035 V- 250
R43 N038 V- 250
Q20 N033 N035 N040 0 2N2222
R44 Vout N033 470
R45 N040 V- 0.68
D4 V- Vout D
R41 N014 N032 1k1
D7 Vout V+ D
C14 V- 0 220µ
C3 V+ N005 47µ
C12 V- 0 200n
C13 V+ 0 200n
XU2 N018 N008 V+ TIP115
XU3 N027 N036 V- TIP110
R11 N018 N017 10
R12 N027 N026 10
XU4 N040 N033 Vout TIP115
C7 N035 N033 100p
Q7 N014 N010 N009 0 2N2907
R25 V+ N009 85
D3 V+ N003 D
R26 N010 0 47k
D2 N003 N010 D
R9 N042 N041 1k
Q12 N030 N041 V- 0 2N2222
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
.fourier 10000 V(Vout)
.tran 0 10.5m 5.5m 0.05u
.param Vin 0.5
.param Freq=10k
* polo dominante de todo el circuito
;ac dec 100 1 1Meg
.lib TCLib/pot.lib
.lib TCLib/TIP110.lib
.lib TCLib/TIP115.lib
.backanno
.end
